US05728835
4-Hydroxymethyl-N-(2-methoxyphenyl)benzamide
4-Chloromethyl-N-(2-methoxyphenyl)benzamide (500 mg, 1.81 mmol) and precipitated calcium carbonate (970 mg, 9.7 mmol) were suspended in a dioxane-water (1:1) mixture solution (9 ml) and subjected to 25 hours of heating under reflux. After adding THF (25 ml) and filtering off the formed insoluble materials, the organic solvent was removed by evaporation. The thus obtained residue was extracted with ethyl acetate, and the resulting organic layer was washed with saturated brine and dried on anhydrous magnesium sulfate. After removing the solvent by evaporation, the resulting colorless solid material was purified by subjecting it to a silica gel column chromatography (ether:hexane=3:1), thereby obtaining 411 mg (88.3%) of the title compound in the form of colorless crystals.

reactant | 4-Chloromethyl-N-(2-methoxyphenyl)benzamide | 1.81 mmol, 500 mg | ClCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C15H14ClNO2
reactant | calcium carbonate | 9.7 mmol, 970 mg | C([O-])([O-])=O.[Ca+2]
reactant | dioxane water | O1CCOCC1.O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-N-(2-methoxyphenyl)benzamide | 411 mg, 88.3% | OCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C15H15NO3
